US04709048
(b) Preparation of (S)-1-Ethyl-2-oxocyclohexanepropanoic Acid Methyl Ester
A solution of (R)-α-methyl-N-(2-ethylcyclohexylidene)-benzenemethanamine (1.303 kg, 5.68 mol), and methyl acrylate (5.68 mol, 489 g, 511 mL) in 2.5 L of dry tetrahydrofuran was sealed under nitrogen and placed in the dark for 21 days. The tetrahydrofuran was then removed on a rotary evaporator and the residue was divided in half. Each half was stirred for 1.5 hours in 3.5 L of 1M hydrochloric acid and extracted with ether (4×700 mL). The extracts were combined, washed with 1M hydrochloric acid (2×500 mL), 1M sodium hydroxide (500 mL) and brine (500 mL). The two halves were combined and concentrated affording 689 g (3.25 mol, 57%) of yellow oil.

reactant | (R)-α-methyl-N-(2-ethylcyclohexylidene)-benzenemethanamine | 5.68 mol, 1.303 kg | C[C@@H](N=C1C(CCCC1)CC)C1=CC=CC=C1 | C16H23N
reactant | methyl acrylate | 5.68 mol, 511 mL, 489 g | C(C=C)(=O)OC | C4H6O2
reactant | tetrahydrofuran | 2.5 L | O1CCCC1 | C4H8O
product | (S)-1-Ethyl-2-oxocyclohexanepropanoic Acid Methyl Ester | 3.25 mol, 689 g, 57% | COC(CC[C@]1(C(CCCC1)=O)CC)=O | C12H20O3
